US04018785
A mixture of ethyl 2-[3-chloro-4-(N-thiazol-2-ylamino)phenyl]propionate (3.8 g), methyl iodide (11.4 ml) and ethanol (11.4 ml) is heated at 100° C for 6 hours in a sealed tube. The ethanol and methyl iodide are evaporated. The residue is washed with benzene and dissolved in methylene chloride. The solution is washed with 20 % aqueous potassium carbonate solution and evaporated to remove methylene chloride. The residue is treated in the same manner as in Example 1 to give ethyl 2-[3-chloro-4-(3-methyl-4-thiazolin-2-ylideneamino)phenyl]propionate (2.45 g). (Yield 62 %).

reactant | ethyl 2-[3-chloro-4-(N-thiazol-2-ylamino)phenyl]propionate | 3.8 g | ClC=1C=C(C=CC1NC=1SC=CN1)C(C(=O)OCC)C | C14H15ClN2O2S
reactant | methyl iodide | 11.4 ml | CI | CH3I
solvent | ethanol | 11.4 ml | C(C)O | C2H6O
product | ethyl 2-[3-chloro-4-(3-methyl-4-thiazolin-2-ylideneamino)phenyl]propionate | 2.45 g, Yield 62 % | ClC=1C=C(C=CC1N=C1SC=CN1C)C(C(=O)OCC)C | C15H17ClN2O2S
